ShakeSense Trenz support check: dc_3.36675_1.5
Vsource src 0 3.36675
Rpath src module 0.030
Iload module 0 1.5
Cbulk module 0 26.4u
.tran 1u 100u
.measure tran vmodule FIND v(module) AT=99u
.end
